US09284323B2
A solution of ethyl 2-(3,6-dimethyl-1-(trifluoromethylsulfonyloxy) naphthalen-2-yl)-2-hydroxyacetate (˜22.8 g, 56 mmol) in DCM (560 mL) was treated with solid Dess-Martin periodinane (35.7 g, 84.2 mmol) at room temperature. After 60 minutes, isopropyl alcohol (25 mL) was added and allowed to stir for 30 minutes. A mixture of saturated NaHCO3 and saturated Na2S2O3 (100 mL each, diluted to 400 mL with water) was added and the resulting aqueous layer extracted with DCM. The combined organics were washed with water, brine and dried over anhydrous MgSO4 and filtered. Following concentration in vacuo, the residue was purified via Isco silica gel column chromatography (0-35% EtOAc/hex) to afford ethyl 2-(3,6-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate. 1H-NMR: 400 MHz, (CDCl3) δ: 7.98 (d, J=8.4 Hz, 1H); 7.66 (s, 1H); 7.61 (s, 1H); 7.47 (d, J=8.4 Hz, 1H); 4.41 (q, J=7.2 Hz, 2H); 2.55 (s, 3H); 2.49 (s, 3H); 1.40 (t, J=8.4 Hz, 3H).

reactant | ethyl 2-(3,6-dimethyl-1-(trifluoromethylsulfonyloxy) naphthalen-2-yl)-2-hydroxyacetate | 56 mmol, ˜22.8 g | CC=1C(=C(C2=CC=C(C=C2C1)C)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)O | C17H17F3O6S
reactant | Dess-Martin periodinane | 84.2 mmol, 35.7 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | Na2S2O3 | 100 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DCM | 560 mL | C(Cl)Cl | CH2Cl2
solvent | isopropyl alcohol | 25 mL | C(C)(C)O | C3H8O
product | ethyl 2-(3,6-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate | CC=1C(=C(C2=CC=C(C=C2C1)C)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)=O | C17H15F3O6S
